US08580957B2
A flask was charged with 2-chloro-5-(trifluoromethyl)pyridine (57.7 mg, 0.318 mmol), (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see Intermediate 25) (100 mg, 0.265 mmol), racemic BINAP (8.25 mg, 0.013 mmol), sodium tert-butoxide (30.5 mg, 0.318 mmol) and tris(dibenzylideneacetone)dipalladium(0) (12.13 mg, 0.013 mmol) then filled with toluene (2.5 mL), and the resulting mixture was stirred at 110° C. under nitrogen for 16 h then cooled to room temperature and loaded on a 5 g SCX cartridge. It was then eluted with MeOH (30 mL) followed by 2M NH3 in MeOH (25 mL). The ammonia fractions were collected and concentrated in vacuo. Purification of the residue by MDAP (modifier: formic acid) gave (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-[5-(trifluoromethyl)-2-pyridinyl]-1,2,3,4-tetrahydro-4-quinolinamine formate salt (15 mg, 0.026 mmol, 10%) as an off white solid

reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.318 mmol, 57.7 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)N)C | C24H31N3O
reactant | BINAP | 0.013 mmol, 8.25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.318 mmol, 30.5 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 12.13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-[5-(trifluoromethyl)-2-pyridinyl]-1,2,3,4-tetrahydro-4-quinolinamine formate salt | 0.026 mmol, 15 mg, 10% | C(=O)O.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)NC1=NC=C(C=C1)C(F)(F)F)C | InChI=1S/C30H33F3N4O.CH2O2/c1-20-16-27(35-29-13-11-25(18-34-29)30(31,32)33)26-17-24(10-12-28(26)37(20)21(2)38)23-8-6-22(7-9-23)19-36-14-4-3-5-15-36;2-1-3/h6-13,17-18,20,27H,3-5,14-16,19H2,1-2H3,(H,34,35);1H,(H,2,3)/t20-,27+;/m0./s1
